US07304077B2
Step a: 3-{[2-(tetrahydro-2H-pyran-2-yloxy)ethyl]sulfonyl}benzoic acid
To a solution of 3-sulfino-benzoic acid (1 g) and 2-iodoethyl tetrahydro-2H-pyran-2-yl ether (1.4 g) in water (20 ml) and ethanol (20 ml) was added NaOH solution to give a pH of 9. The resulting mixture was refluxed for 3 hours before evaporation of the ethanol. The aqueous was acidified to pH3 and the product extracted with EtOAc. The organic layer was separated, dried with MgSO4 and solvent removed by evaporation to give the sub-title compound (0.25 g).

reactant | 3-sulfino-benzoic acid | 1 g | S(=O)(O)C=1C=C(C(=O)O)C=CC1 | C7H6O4S
reactant | 2-iodoethyl tetrahydro-2H-pyran-2-yl ether | 1.4 g | O1C(CCCC1)OCCI | C7H13IO2
reactant | NaOH | [OH-].[Na+]
solvent | water | 20 ml | O | H2O
solvent | ethanol | 20 ml | C(C)O | C2H6O
product | 3-{[2-(tetrahydro-2H-pyran-2-yloxy)ethyl]sulfonyl}benzoic acid | 0.25 g | O1C(CCCC1)OCCS(=O)(=O)C=1C=C(C(=O)O)C=CC1 | C14H18O6S
